US06608203B2
1-{6-Hydroxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinolin-2-yl}2,2-dimethylpropan-1-one
A mixture of 1-{6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinolin-2yl}-2,2-dimethylpropan-1one, ammonium formate (0.033 g, 0.52 mmol), and 20% Pd(OH)2/C (0.002 g) in MeOH (10 ml) was refluxed under N2 for 1.5 hr, then filtered to remove the catalyst. The filtrate was evaporated in vacuo to a residue that was suspended in H2O (0.4 ml) and saturated NaHCO3 (0.4 ml). The aqueous mixture was extracted with CH2Cl2 (3×0.8 ml) and all of the combined organic solutions were evaporated to give the crude product. Purification by reverse-phase HPLC on a Primesphere C-18HC (50.0 mm×10.0 mm column with 5 m particle size) column, eluting with a linear gradient starting at time 0 min. of H2O:CH3CN:1% TFA/H2O (85:10:5), increasing to H2O:CH3CN:1% TFA/H2O (5:90:5) at 8 min., detected on a Micromass Platform 2 mass spectrometer (DAD 190-600 nM) gave material which, after evaporation to dryness, was purified by reverse-phase HPLC on a Primesphere C-18HC (3.0 mm×2.0 mm column with 5 m particle size) column, eluting with a linear gradient starting at time 0 min. of H2O:CH3CN:TFA (99.9:0:0.1), increasing to H2O:CH3CN:TFA (0:99.9:0.1) at 4 min., detected with a UV detector (300 nM +/−90 nM and 254 nM +/−25 nM), gave an eluent that was evaporated to dryness to give the pure product.

reactant | 1-{6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinolin-2yl}-2,2-dimethylpropan-1one | C(C1=CC=CC=C1)OC=1C=C2CCN(C(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1)C(C(C)(C)C)=O | C33H40N2O3
reactant | ammonium formate | 0.52 mmol, 0.033 g | C(=O)[O-].[NH4+]
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd(OH)2/C | 0.002 g | [OH-].[OH-].[Pd+2]
product | 1-{6-Hydroxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinolin-2-yl}2,2-dimethylpropan-1-one | OC=1C=C2CCN(C(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1)C(C(C)(C)C)=O | C26H34N2O3
